US06969710B2
4-Methyl-N-{4-(4-methyl-1-piperazinyl)-2-[(methylsulfonyl)amino]-phenyl}benzenesulfonamide hydrochloride (Scheme 2, Method 3)
N-[5-(4-methyl-1-piperazinyl)-2-nitrophenyl]-methanesulfonamide (0.45 g, 1.43 mmol) was dissolved in THF (10 mL) followed by the addition of Raney-Ni (0.15 g in ethanol) and hydrazine hydrate (78 mg, 1.56 mmol). The reaction was stirred for 1 h. Another aliquot of hydrazine hydrate (20 μL) was added and the reaction stirred for another hour, filtered through Celite and concentrated to give 0.42 g that was used to the next step without further purification. The material was dissolved in DMF (10 mL) and divided into 3 equal parts. To one part was added p-toluene sulfonyl chloride (0.095 g, 0.5 mmol) and the reaction was stirred for 1 h and poured into a mixture of petroleum ether/acetone (30 mL/10 mL) to give a precipitate. Additional product was found in the solution and added to the precipitate. The product was isolated by chromatography (SiO2, CH2Cl2/MeOH 9:1) to give 0.063 g, (28% yield). MS (posES-FIA) m/z=found: 38.1393. Calcd: 438.1395.

reactant | N-[5-(4-methyl-1-piperazinyl)-2-nitrophenyl]-methanesulfonamide | 1.43 mmol, 0.45 g | CN1CCN(CC1)C=1C=CC(=C(C1)NS(=O)(=O)C)[N+](=O)[O-] | C12H18N4O4S
reactant | hydrazine hydrate | 1.56 mmol, 78 mg | O.NN
reactant | hydrazine hydrate | 20 μL | O.NN
reactant | p-toluene sulfonyl chloride | 0.5 mmol, 0.095 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | Ni | 0.15 g | [Ni] | Ni
product | 4-Methyl-N-{4-(4-methyl-1-piperazinyl)-2-[(methylsulfonyl)amino]-phenyl}benzenesulfonamide hydrochloride | 28% yield | Cl.CC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCN(CC1)C)NS(=O)(=O)C | InChI=1S/C19H26N4O4S2.ClH/c1-15-4-7-17(8-5-15)29(26,27)21-18-9-6-16(14-19(18)20-28(3,24)25)23-12-10-22(2)11-13-23;/h4-9,14,20-21H,10-13H2,1-3H3;1H
